US04197373
Preparation of N,N'-bis(1-hydroxy-2,2,2-trichloroethyl) melamine
This compound has previously been prepared by Bump and Atkinson [J. Am Chem. Soc., 72, 629 (1950)]. Melamine (44.2 g, 0.3 mole) was added all at once to a stirred solution of chloral (221.2 g, 1.5 mole) dissolved in 375 ml. of water at 70°-80° C. The reaction mixture was stirred for 3 hours and the white precipitated product was filtered to give an 81% yield after drying. The product had a melting point >200° C. and decomposed on further heating.

reactant | Melamine | 0.3 mole, 44.2 g | N1=C(N)N=C(N)N=C1N | C3H6N6
reactant | chloral | 1.5 mole, 221.2 g | O=CC(Cl)(Cl)Cl | C2HCl3O
solvent | water | O | H2O
product | N,N'-bis(1-hydroxy-2,2,2-trichloroethyl) melamine | 81% yield | OC(C(Cl)(Cl)Cl)NC1=NC(=NC(=N1)NC(C(Cl)(Cl)Cl)O)N | C7H8Cl6N6O2
